US09023846B2
2-Bromo-5-nitropyridin-4-amine (561 mg, 2.57 mmol), Cs2CO3 (2.52 g, 7.72 mmol), (dppf)PdCl2.DCM (113 mg, 0.154 mmol), and 2-(trifluoromethyl)phenylboronic acid (636 mg, 3.35 mmol) were combined and flushed with Ar and anhydrous DME (24 mL) was added. H2O (8 mL) was added via syringe and the resulting mixture was stirred at 85° C. for 18 h. The resulting mixture was cooled to room temperature and diluted with EtOAc (30 mL) and the resulting solution was washed with brine (30 mL). The aqueous phase was extracted with EtOAc (3×25 mL) and the combined extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure and the residue was chromatographed on a 40-g SiO2 pre-packed column eluting with 0:1-2:3 EtOAc/hexanes to yield 5-nitro-2-(2-trifluoromethyl-phenyl)-pyridin-4-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 9.17 (s, 1H), 7.70 (d, J=7.8 Hz, 1H), 7.56 (t, J=7.1 Hz, 1H), 7.49 (t, J=7.5 Hz, 1H), 7.40 (d, J=7.6 Hz, 1H), 7.00 (br. s., 2H), 6.71 (s, 1H). Mass Spectrum (LCMS, ESI pos.): Calculated for C12H8F3N3O2: 284.1 (M+H); Measured: 284.1.

reactant | 2-Bromo-5-nitropyridin-4-amine | 2.57 mmol, 561 mg | BrC1=NC=C(C(=C1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | Cs2CO3 | 7.72 mmol, 2.52 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DCM | 0.154 mmol, 113 mg | C(Cl)Cl | CH2Cl2
reactant | 2-(trifluoromethyl)phenylboronic acid | 3.35 mmol, 636 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-nitro-2-(2-trifluoromethyl-phenyl)-pyridin-4-ylamine | [N+](=O)([O-])C=1C(=CC(=NC1)C1=C(C=CC=C1)C(F)(F)F)N | C12H8F3N3O2
